US07129238B2
(RS)-(2,6-Difluoro-4-methoxy-phenyl)-ethoxy-acetic acid was coupled with 4-aminomethyl-3-chlorobenzonitrile (CAS 202521-97-9) according to general procedure C to give (RS)-N-(2-chloro-4-cyano-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-ethoxy-acetamide. Colorless oil. MS 395.0 ([M+H]+)

reactant | (RS)-(2,6-Difluoro-4-methoxy-phenyl)-ethoxy-acetic acid | FC1=C(C(=CC(=C1)OC)F)C(C(=O)O)OCC | C11H12F2O4
reactant | 4-aminomethyl-3-chlorobenzonitrile | NCC1=C(C=C(C#N)C=C1)Cl | C8H7ClN2
product | (RS)-N-(2-chloro-4-cyano-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-ethoxy-acetamide | ClC1=C(CNC(C(OCC)C2=C(C=C(C=C2F)OC)F)=O)C=CC(=C1)C#N | C19H17ClF2N2O3
